US05707987
To a liquid mixture of a solution of (2S,4R)-N-t-butoxycarbonyl-4-t-butyldimethylsiloxy-2-mesyloxymethylpyrrolidine (5.02 g, 12.3 mmol) and p-mercaptobenzenesulfonamide (2.39 g, 12.6 mmol) in THF (60 ml) with -N,N-dimethylformamide (20 ml), 1,8-diazabicyclo[5.4.0]-7-undecene (2.46 ml, 16.4 ml) was added dropwise in a nitrogen stream at room temperature. The reaction solution was stirred at the same temperature for 7 hours and then poured into a liquid mixture of ethyl acetate with water. The organic layer was washed with saturated aqueous sodium chloride, dried over anhydrous sodium sulfate, and then concentrated in vacuo. The resulting residue was subjected to silica gel column chromatography (Wakogel™ C-300 heptane-ethyl acetate 9:1→4:1→3:2) to give (2S,4R)-N-t-butoxycarbonyl-4-t-butyldimethylsiloxy-2-(4-sulfamoylphenyl)thiomethylpyrrolidine (2.65 g, yield: 43.1%) as a colorless oily substance.

reactant | (2S,4R)-N-t-butoxycarbonyl-4-t-butyldimethylsiloxy-2-mesyloxymethylpyrrolidine | 12.3 mmol, 5.02 g | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)O[Si](C)(C)C(C)(C)C)COS(=O)(=O)C | C17H35NO6SSi
reactant | p-mercaptobenzenesulfonamide | 12.6 mmol, 2.39 g | SC1=CC=C(C=C1)S(=O)(=O)N | C6H7NO2S2
reactant | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
reactant | 1,8-diazabicyclo[5.4.0]-7-undecene | 2.46 ml | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | THF | 60 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2S,4R)-N-t-butoxycarbonyl-4-t-butyldimethylsiloxy-2-(4-sulfamoylphenyl)thiomethylpyrrolidine | 2.65 g, yield: 43.1% | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)O[Si](C)(C)C(C)(C)C)CSC1=CC=C(C=C1)S(N)(=O)=O | C22H38N2O5S2Si
